Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left arm jerking and weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old left-handed woman with a history of
prior right frontal/parietal embolic infarcts in ___ (with
residual left foot numbness), known right ICA occlusion,
hypertension, and hyperlipidemia who presents to the ___ ED as
a transfer from ___ after mulitple episodes of left arm
jerking and weakness.

This afternoon, the patient states that her left arm started
"moving on its own." This occured at around 1 ___ as she was
getting ready for work. She states that it simply "jerked a
little bit" and then stopped. The episode lasted ___ seconds and
then resolved. She ignored it and took a shower. She then went 
to
the restaurant where she works as a ___. 

From the time she got to work, at around 4 ___, until 8:30 ___ she
had no recurrent symptoms. She was able to cut, dice, and 
perform
other chef tasks without difficulty. She felt well.

Then, at approximately 8:30 ___, the spatula suddently dropped 
out
of her left hand. She then noticed similar shaking movements of
the left hand as those that occurred earlier in the day. A few
seconds later, her left foot started "flopping" without her
control. The entire event lasted ___ seconds.

Afterwards, she felt weak on the left side and had difficulty
walking. The head chef could sense that she was in distress and
helped carry her to a milk crate where she sat down. She was
fully alert throughout the event. She was handed a glass of 
water
to her left hand but she was unable to grip it properly and it
fell out of her hand and crashed to the floor.

A patron of the restaurant - an RN - who was seated at the bar,
heard the crash and went to assess the patient. She applied a
cold cloth to her forehead and lied her down. The patient does
not know if her weakness resolved by this point but she
definitely felt better lying down. EMS was activated and the
patient was ___ to ___ for further evaluation. NIHSS
on arrival was 0. CTA head and neck was performed. She was then
transferred to ___ for further evaluation. 

 
Past Medical History:
- Stroke in ___. Per review of CHA records, patient
presented to the ED after 3 weeks of numbness and difficulty
moving her left arm and left leg. Her BP on arrival to the ED 
was
237/96 mmHg. MRI showed scattered diffusion abnormalities in her
right frontal and parietal lobes. CTA neck showed occlusion of
the right ICA at its origin. No residua other than left foot
numbness.                            
- Hypertension
- Hyperlipidemia 
- PFO
 
Social History:
___
Family History:
Father had "mini strokes" and diabetes. Strokes in his ___. Died
at age ___ from liver cancer. Mother without cerebrovascular
disease. Daughter is ___ years old. 
 
Physical Exam:
General: Awake, cooperative, NAD, supine in bed.
HEENT: Poor dentition, missing multiple teeth. NC/AT, no scleral
icterus noted, MMM, no lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk throughout. Slight paratonia in both legs. 
No
pronator drift bilaterally. No adventitious movements, such as
tremor, noted. No asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___-  5-   5-  5   4+   5-   5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: Hyperesthesias on the bottom of her left foot. No
deficits to light touch, pinprick, cold sensation, vibratory
sense, proprioception throughout otherwise. No extinction to 
DSS.

-DTRs: ___, 3+ throughout. + Pectoral jerks
and crossed adductors. No ___. Upgoing toe on the left,
mute on the right. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait/Station: able to walk unassisted, with mild spastic gait 
on left

================================
Discharge:

 
Pertinent Results:
___ 01:14AM BLOOD WBC-8.6 RBC-4.61 Hgb-13.5 Hct-39.8 MCV-86 
MCH-29.3 MCHC-33.9 RDW-14.0 RDWSD-43.9 Plt ___
___ 01:14AM BLOOD ___ PTT-24.0* ___
___ 01:14AM BLOOD Glucose-111* UreaN-13 Creat-0.9 Na-136 
K-4.1 Cl-100 HCO3-21* AnGap-15
___ 07:23AM BLOOD ALT-33 AST-41* LD(LDH)-203 CK(CPK)-181 
AlkPhos-65 TotBili-1.0
___ 07:23AM BLOOD ALT-33 AST-41* LD(LDH)-203 CK(CPK)-181 
AlkPhos-65 TotBili-1.0
___ 07:23AM BLOOD CK-MB-12* MB Indx-6.6* cTropnT-<0.01
___ 07:23AM BLOOD TotProt-7.1 Albumin-4.1 Globuln-3.0 
Cholest-99
___ 07:23AM BLOOD Triglyc-71 HDL-39* CHOL/HD-2.5 LDLcalc-46
___ 07:23AM BLOOD %HbA1c-5.5 eAG-111
___ 07:23AM BLOOD TSH-2.1
___ 07:23AM BLOOD CRP-41.4*

MRI
1. No acute infarct or intracranial hemorrhage. 
2. Occlusion of the right internal carotid artery up to its 
terminal segment, as seen on the CTA. 
3. Old infarcts involving the right centrum semiovale, high 
right perirolandic region and right pons. 
4. Mild paranasal sinus disease as above. 

 
Brief Hospital Course:
Ms. ___ was admitted for left arm flailing and weakness, 
which in the setting of her known right ICA/MCA occlusion 
(thought to be due to a dissection that did not recanalize, 
based on imaging features) and possible dehydration, may have 
caused a limb shaking TIA. MRI did not reveal acute infarct. Her 
exam did not show perfusion dependence. Seizure was considered 
but thought to be less likely. We monitored the patient for 48 
hours and clinically she did not have any repeat events, and she 
was subsequently discharged with no changes to her medications 
or regimen, other than cautioning her to maintain hydration.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 46) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? Patient at baseline functional 
status
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 
Transitional issues:
[ ] follow up on elevated CRP, felt to be unrelated to current 
presentation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Limb shaking TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
You were hospitalized due to symptoms of left sided 
weakness/flailing resulting from a TRANSIENT ISCHEMIC ATTACK, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot but then clears. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 Pre-existing stroke
 Smoking
   
We are not changing your medications. However, to prevent 
recurrence, we recommend that you stay well hydrated.
 
Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___